US04810423
1,2β-methylene-6-methylenandrost-4-ene-3,17-dione [VI, R1 =CH2 ; R2 =H; (a)=double bond; (b)=single bond].
A mixture of sodium acetate (1 g), absolute chloroform (30 ml), formaldehyde diethyl acetal (30 ml, 0.24 mol), phosphoryl chloride (3.8 ml, 40 mmol), and 1,2β-methylenandrost-4-ene-3,17-dione (0.806 g, 2.7 mmol) is stirred at reflux for about 7 hours, i.e. until the starting material has disappeared. The suspension is allowed to cool and under vigorous stirring a saturated sodium carbonate solution is added dropwise until the pH of the aqueous layer becomes alkaline (about 1 hour). The organic layer is separated, neutralized with water, and dried with sodium sulfate. After concentration under reduced pressure the oily residue is purified by column chromatography on silica gel using n-hexane/ethylacetate as eluant. The pure title compound is obtained in 60% yield (0.503 g).

reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | formaldehyde diethyl acetal | 0.24 mol, 30 ml | C(C)OCOCC | C5H12O2
reactant | phosphoryl chloride | 40 mmol, 3.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,2β-methylenandrost-4-ene-3,17-dione | 2.7 mmol, 0.806 g | C1C2[C@H]1C(C=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O | C20H26O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2β-methylene-6-methylenandrost-4-ene-3,17-dione | 60% yield | C1C2[C@H]1C(C=C1C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=C)=O | C21H26O2
